US05073558
Synthesis of 5-chloro-N-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethyl}-6-methyl-N-(N'-methylcarbamoyl)-4-pyrimidine amine (Compound No. II-5)
Into a solution of 1.0 g of 5-chloro-N-chlorocarbonyl-N-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethyl}-6-methyl-4-pyrimidine amine dissolved in 20 ml of toluene was added under stirring 1 ml of an aqueous 40% monomethylamine solution, and the mixture was stirred at room temperature for one hour.

reactant | 5-chloro-N-chlorocarbonyl-N-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethyl}-6-methyl-4-pyrimidine amine | 1.0 g | ClC=1C(=NC=NC1C)N(CCOC1=C(C=C(C=C1)CCOCC)C)C(=O)Cl | C19H23Cl2N3O3
reactant | monomethylamine | CN | CH5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-N-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethyl}-6-methyl-N-(N'-methylcarbamoyl)-4-pyrimidine amine | ClC=1C(=NC=NC1C)N(C(NC)=O)CCOC1=C(C=C(C=C1)CCOCC)C | C20H27ClN4O3
